US08211919B2
To a solution of 4-(4-nitrophenyl)pyrimidin-2-amine (1.17 g) in dichloromethane (30 mL) were added di-tert-butyl dicarbonate (3.19 g) and 4-dimethylaminopyridine (66 mg) at ambient temperature and the mixture was stirred for 20 hours. Water (10 mL) was added and the organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with chloroform/methanol (20:1) to afford di-tert-butyl [4-(4-nitrophenyl)pyrimidin-2-yl]imidodicarbonate (1.72 g) as a powder.

reactant | 4-(4-nitrophenyl)pyrimidin-2-amine | 1.17 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC(=NC=C1)N | C10H8N4O2
reactant | di-tert-butyl dicarbonate | 3.19 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 10 mL | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 66 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | di-tert-butyl [4-(4-nitrophenyl)pyrimidin-2-yl]imidodicarbonate | 1.72 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC(=NC=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C20H24N4O6
